US09125946B2
6-Iodo Anthranilic Acid Hydrochloride
Charge a 12 L, 3-neck flask, equipped with a stirrer, condenser, heating mantle and thermometer with N-Acetyl-6-Iodo-Anthranilic acid (400 grams) and 2.5 L concentrated HCl. Adjust the temperature to 50-55° C. and maintain for 24 hours. Higher temperatures may decompose the product. Chill the reaction to less than 5° C. in an ice bath, filter the product, wash the filter “cake” with acetone, then diethylether. Air dry the product. Yield was 340 grams. (Theoretical yield=374.4 grams). Melting point (m.p.) at 176-180° C.

reactant | N-Acetyl-6-Iodo-Anthranilic acid | 400 grams | C(C)(=O)NC=1C(C(=O)O)=C(C=CC1)I | C9H8INO3
reactant | HCl | 2.5 L | Cl | ClH
product | 6-Iodo Anthranilic Acid Hydrochloride | Cl.IC=1C=CC=C(C1C(=O)O)N | InChI=1S/C7H6INO2.ClH/c8-4-2-1-3-5(9)6(4)7(10)11;/h1-3H,9H2,(H,10,11);1H
